US05891686
Effect of the Art pta-ack Gene Products on P(HV-CO-V) Synthesis in fadR atoC (CON) Mutants
Acetate kinase levels were measured essentially according to the method described by Brown et al., Journal of General Microbiology 102:327-336; 1977. Briefly, reaction constituents (all from Sigma chemicals) were prepared, and added to a microcentrifuge tube as follows: 12.5 μl of 200 mM magnesium chloride, 50 μl of 100 mM ATP, 30 μl of 200 mM sodium acetate, 50 μl of hydroxylamine solution (see below), and 30 μl of water. All of these solutions except for magnesium chloride are made in 50 mM Tris buffer, pH 8.0. The tube was placed into a 37° C. dry block and equilibrated for 3 minutes. Next, 100 μl of diluted cell-free extract (dilutions range between 1:2 and 1:50) was added, the contents mixed, and the reaction allowed to proceed for 10 minutes. The reaction was stopped by adding 450 μl of ferric chloride reagent (see below), and the tube was placed on ice for 10 min. The tube was then centrifuged in a microcentrifuge for 2 min, and absorbance at 540 nanometers determined versus a blank containing all of the above constituents except for 100 μl of deionized water in place of the enzyme preparation.

reactant | Acetate | C(C)(=O)[O-]
reactant | magnesium chloride | 200 mM, 12.5 μl | [Cl-].[Mg+2].[Cl-]
reactant | ATP | 100 mM, 50 μl | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | sodium acetate | 200 mM, 30 μl | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine | 50 μl | NO | H3NO
solvent | Tris | 50 mM | C(C(CO)(CO)N)O | C4H11NO3
solvent | water | 30 μl | O | H2O
product | CO-V | C1[C@H](C2=C(NC=N1)N(C=N2)C3CC(C(O3)CO)O)O | C11H16N4O4
